US07423159B2
A mixture of 5-methyl-1-(4-nitrobenzyl)-1H-imidazole (1.4 g), 10% palladium carbon (200 mg) and ethanol (20 ml) was stirred under a hydrogen atmosphere at room temperature for 4 hrs. Palladium carbon was removed from the reaction mixture by filtration, and the filtrate was concentrated. Recrystallization of the residue from ethyl acetate-hexane gave 1-(4-aminobenzyl)-5-methyl-1H-imidazole (1.17 g, 97%) as colorless prism crystals. melting point: 124-125° C.

reactant | 5-methyl-1-(4-nitrobenzyl)-1H-imidazole | 1.4 g | CC1=CN=CN1CC1=CC=C(C=C1)[N+](=O)[O-] | C11H11N3O2
catalyst | palladium carbon | 200 mg | [C].[Pd]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-(4-aminobenzyl)-5-methyl-1H-imidazole | 1.17 g, 97% | NC1=CC=C(CN2C=NC=C2C)C=C1 | C11H13N3
